US04814454
4-(2-Naphthalenylamino)phenol
A mixture of 1.00 g (6.94 mmol, Aldrich) of 2-naphthol, 1.01 g (9.26 mmol, Aldrich) of 4-aminophenol, and 5.2 g (50 mmol, Aldrich) of sodium bisulfite in 30 ml of H2O was refluxed for 36 hours. The reaction mixture was cooled, added to 50 ml of H2O and extracted with 50 ml of hot ethyl acetate. The organic layer was separated, washed with an additional 50 ml of H2O, dried (MgSO4) and concentrated in vacuo to give a solid. The crude solid was purified by flash chromatography (15×5.0 cm, 1:4 EtOAc/petroleum ether) followed by recrystallization (EtOAc/petroleum ether) to afford 1.15 g (71%) of title compound as pale purple flakes, m.p. 134°-135° C.

reactant | 2-naphthol | 6.94 mmol, 1.00 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 4-aminophenol | 9.26 mmol, 1.01 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | sodium bisulfite | 50 mmol, 5.2 g | S([O-])(O)=O.[Na+]
solvent | H2O | 30 ml | O | H2O
solvent | H2O | 50 ml | O | H2O
product | 4-(2-Naphthalenylamino)phenol | 1.15 g, 71% | C1=C(C=CC2=CC=CC=C12)NC1=CC=C(C=C1)O | C16H13NO
